US04724236
5,11-Dihydro-11-[1-oxo-2-methyl-6-(4-methyl-1-piperazinyl)-4-hexynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one dihydrochloride
28 g (0.067 mol) of 5,11-dihydro-11-[1-oxo-2-methyl-6-(4-methyl-1-piperazinyl)-4-hexynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one are suspended in 350 ml of absolute ethanol and 45 ml of ethereal hydrochloric acid are added with stirring at boiling temperature. A clear solution is obtained at first, which goes cloudy again after some time. A fine crystal slurry is precipitated which is cooled and suction filtered and then washed with 50 ml of absolute ethanol and 150 ml of acetone.

reactant | 5,11-dihydro-11-[1-oxo-2-methyl-6-(4-methyl-1-piperazinyl)-4-hexynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.067 mol, 28 g | O=C(C(CC#CCN1CCN(CC1)C)C)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C24H27N5O2
reactant | hydrochloric acid | 45 ml | Cl | ClH
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 5,11-Dihydro-11-[1-oxo-2-methyl-6-(4-methyl-1-piperazinyl)-4-hexynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one dihydrochloride | Cl.Cl.O=C(C(CC#CCN1CCN(CC1)C)C)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | InChI=1S/C24H27N5O2.2ClH/c1-18(8-5-6-13-28-16-14-27(2)15-17-28)24(31)29-21-11-4-3-9-19(21)23(30)26-20-10-7-12-25-22(20)29;;/h3-4,7,9-12,18H,8,13-17H2,1-2H3,(H,26,30);2*1H
